US08455483B2
N-(2,2-Diethoxyethyl)tetrahydro-2H-pyran-4-amine
Sodium triacetoxyborohydride (10.6 g) was added to a cooled (0° C.) solution of aminoacetaldehyde diethyl acetal (5.8 mL) and tetrahydro-4H-pyran-4-one (3.7 mL) in dichloromethane (100 mL). The reaction was stirred for 18 h, allowing the temperature to warm to ambient conditions. Water (100 mL) was added, followed by portionwise addition of sodium bicarbonate (16.8 g), causing effervescence. The mixture was stirred vigorously for 1 h, and then allowed to partition. The phases were then separated and the aqueous phase extracted with more dichloromethane (50 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo to afford the titled compound as a colourless oil. Yield 8.3 g.

reactant | Sodium triacetoxyborohydride | 10.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | aminoacetaldehyde diethyl acetal | 5.8 mL | C(C)OC(CN)OCC | C6H15NO2
reactant | tetrahydro-4H-pyran-4-one | 3.7 mL | O1CCC(CC1)=O | C5H8O2
reactant | sodium bicarbonate | 16.8 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | Water | 100 mL | O | H2O
product | N-(2,2-Diethoxyethyl)tetrahydro-2H-pyran-4-amine | C(C)OC(CNC1CCOCC1)OCC | C11H23NO3
